US05158948
Step 3: 4-Benzyloxy-3-methoxyphenylacetyl chloride
To a solution of 4-benzyloxy-3-methoxyphenylacetic acid (5.0 g, 18 mmol), from Step 2, in THF (40 mL) was added oxalyl chloride (2.54 g, 20 mmol, 1.1 equivalent) followed by a catalytic amount of DMF (~0.2 mL). The resulting mixture was stirred at ambient temperature for 2 hours and then concentrated under reduced pressure to give the title compound which was used without purification.

reactant | 4-benzyloxy-3-methoxyphenylacetic acid | 18 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)O)OC | C16H16O4
reactant | oxalyl chloride | 20 mmol, 2.54 g, 1.1 equivalent | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | ~0.2 mL | CN(C)C=O | C3H7NO
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-Benzyloxy-3-methoxyphenylacetyl chloride | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)Cl)OC | C16H15ClO3
